US06900209B2
Step 2: 6-({[3-Chloromethyl-1-methyl-1H-[1,2,4]triazol-5-ylmethyl}oxy)-3-(5-methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazine
A suspension of [1-methyl-5-({[3-(5-methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazin-6-yl]oxy}methyl]-1H-[1,2,4]triazol-3-yl}methanol (350 mg, 0.9 mmol) in dichloromethane (15 ml) was treated portionwise with thionyl chloride (5 ml) at room temperature for 1 h. The mixture was evaporated in vacuo and the residue partitioned between 5% MeOH/DCM and water. The aqueous layer was basified with saturated K2CO3 solution. The organic layer was separated, dried (MgSO4), and concentrated to give the title compound as a white solid (0.28 g, 78%).

reactant | [1-methyl-5-({[3-(5-methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazin-6-yl]oxy}methyl]-1H-[1,2,4]triazol-3-yl}methanol | 0.9 mmol, 350 mg | CN1N=C(N=C1COC1=NN2C(C3=CC=CC=C13)=NN=C2C2=NOC(=C2)C)CO | C18H16N8O3
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | {[3-Chloromethyl-1-methyl-1H-[1,2,4]triazol-5-ylmethyl}oxy)-3-(5-methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazine | 0.28 g, 78% | ClCC1=NN(C(=N1)COC1=NN2C(C3=CC=CC=C13)=NN=C2C2=NOC(=C2)C)C | C18H15ClN8O2
